US08563617B2
264.1 1-[1-(3-Chlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl]pyrrolidine
1-(3-Chlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-amine (6 g, 19.88 mmol) was dissolved in acetonitrile (150 mL). 1,4-Dibromobutane (2.61 mL, 21.87 mmol) and triethylamine (6.1 mL, 43.7 mmol) were added and the reaction mixture heated under reflux for 3 h. The reaction mixture was poured on ice and extracted with dichloromethane. The combined organic extracts were successively washed with water and brine, dried (MgSO4) and the solvent was evaporated in vacuo. The crude product (6.6 g) was used for the next step without further purification.

reactant | 1-(3-Chlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-amine | 19.88 mmol, 6 g | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OC)N)C=CC1 | C18H20ClNO
reactant | 1,4-Dibromobutane | 21.87 mmol, 2.61 mL | BrCCCCBr | C4H8Br2
reactant | triethylamine | 43.7 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-[1-(3-Chlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl]pyrrolidine | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OC)N2CCCC2)C=CC1 | C22H26ClNO
